US07713979B2
4-Chloro-N-(1-phenyl-cyclohexyl)-butyramide
Dissolve 1-phenyl-cyclohexylamine (Preparation 28) (0.41 g, 2.32 mmol) in dichloromethane (50 mL) and cool to 0° C. Add pyridine (1.18 g, 11.61 mmol) and 4-chloro-butyryl chloride (0.65 g, 4.64 mmol). Stir the reaction mixture for one hour under nitrogen. Add water (50 mL), and extract the aqueous layer with ethyl acetate (3×100 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 10-50% of EtOAc/Hexane) to give 0.58 g (89%) of the title compound as a colorless oil.

reactant | 1-phenyl-cyclohexylamine | 2.32 mmol, 0.41 g | C1(=CC=CC=C1)C1(CCCCC1)N | C12H17N
reactant | pyridine | 11.61 mmol, 1.18 g | N1=CC=CC=C1 | C5H5N
reactant | 4-chloro-butyryl chloride | 4.64 mmol, 0.65 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-Chloro-N-(1-phenyl-cyclohexyl)-butyramide | 0.58 g, 89% | ClCCCC(=O)NC1(CCCCC1)C1=CC=CC=C1 | C16H22ClNO
